US04036828
A solution of 1.5 grams of 2,6-dimethyl-1-propylpiperazine in 10 ml. of methanol is mixed with a solution of 3,4-dimethoxy-3-cyclobutene-1,2-dione in 25 ml. of methanol and refluxed for 5 hours. The solvent is then evaporated by heating on a steam bath and the resulting red semi-crystalline residue is triturated with anhydrous ethyl ether and filtered and the filter cake is washed with 5 ml. of anhydrous ethyl ether to remove the colored by-products and leave 3,4-bis(3,5-dimethyl-4-propyl-1-piperazinyl)-3-cyclobutene-1,2-dione as a grey-white crystalline solid melting at about 145°-147° C.

reactant | 2,6-dimethyl-1-propylpiperazine | 1.5 grams | CC1N(C(CNC1)C)CCC | C9H20N2
reactant | 3,4-dimethoxy-3-cyclobutene-1,2-dione | COC=1C(C(C1OC)=O)=O | C6H6O4
solvent | methanol | CO | CH4O
product | 3,4-bis(3,5-dimethyl-4-propyl-1-piperazinyl)-3-cyclobutene-1,2-dione | CC1CN(CC(N1CCC)C)C=1C(C(C1N1CC(N(C(C1)C)CCC)C)=O)=O | C22H38N4O2
